US07335660B2
a) 5-Bromo-1,2-dihydro-1-acenaphthylenol
To 1,2-dihydro-1-acenaphthylenol (0.34 g, 2 mmol) in dry DMF (10 mL) was added recrystallised N-bromosuccinimide (0.39 g, 2.2 mmol), and the mixture stirred for 3 h under nitrogen. The solution was poured onto water (500 mL) and the precipitate filtered off. The resultant solid was redissolved in methanol, filtered and evaporated in vacuo to yield the title compound as a brown solid.

reactant | 1,2-dihydro-1-acenaphthylenol | 2 mmol, 0.34 g | C1(CC2=CC=CC3=CC=CC1=C23)O | C12H10O
reactant | N-bromosuccinimide | 2.2 mmol, 0.39 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-1,2-dihydro-1-acenaphthylenol | BrC1=CC=C2CC(C=3C=CC=C1C32)O | C12H9BrO
